US06846832B2
e) N-(Diphenyl-phosphinoylmethyl)-2-fluoro-5-methoxy-N-(4-methoxy-benzyl)-benzamide
To a mixture of 2-fluoro-5-methoxy-benzoyl chloride (4.77 g, 25.0 mmol) and sodium carbonate (13.4 g, 126.7 mmol) in dichloromethane (100 mL) cooled to 0° C. a solution of (diphenyl-phosphinoylmethyl)-(4-methoxy-benzyl)-amine (8.9 g, 25.3 mmol) in dichloromethane (50 mL) was added and the resulting mixture allowed to warm up to RT overnight. Then the mixture was filtered and evaporated and the residue was purified by chromatography (SiO2, Hexane:Acetone 1:1) to afford the title product (7.3 g, 57%) as a light yellow solid. MS m/e=504.3 (M+H+).

reactant | 2-fluoro-5-methoxy-benzoyl chloride | 25.0 mmol, 4.77 g | FC1=C(C(=O)Cl)C=C(C=C1)OC | C8H6ClFO2
reactant | sodium carbonate | 126.7 mmol, 13.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | (diphenyl-phosphinoylmethyl)-(4-methoxy-benzyl)-amine | 25.3 mmol, 8.9 g | C1(=CC=CC=C1)C([PH2]=O)(C1=CC=CC=C1)NCC1=CC=C(C=C1)OC | C21H22NO2P
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-(Diphenyl-phosphinoylmethyl)-2-fluoro-5-methoxy-N-(4-methoxy-benzyl)-benzamide | 7.3 g, 57% | C1(=CC=CC=C1)C(N(C(C1=C(C=CC(=C1)OC)F)=O)CC1=CC=C(C=C1)OC)([PH2]=O)C1=CC=CC=C1 | C29H27FNO4P
